US04233307
A mixture of 15.1 g of 1'-benzyl-1-methyl-2-oxoindoline-3-spiro-4'-piperidine, 33.5 g of benzyloxycarbonyl chloride and 530 ml of toluene was refluxed for 6 hours. The resulting mixture was poured into water and extracted with ethylacetate. The extract was washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo. Thus obtained oil was washed with n-hexane to give 1'-benzyloxycarbonyl-1-methyl-2-oxo-indoline-3-spiro-4'-piperidine.

reactant | 1'-benzyl-1-methyl-2-oxoindoline-3-spiro-4'-piperidine | 15.1 g | C(C1=CC=CC=C1)N1CCC2(CC1)C(N(C1=CC=CC=C12)C)=O | C20H22N2O
reactant | benzyloxycarbonyl chloride | 33.5 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | toluene | 530 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1'-benzyloxycarbonyl-1-methyl-2-oxo-indoline-3-spiro-4'-piperidine | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC1)C(N(C1=CC=CC=C12)C)=O | C21H22N2O3
